** sch_path: /foss/designs/CHIP-PLL/divider/inverter_x2.sch
.subckt inverter_x2 IN VP OUT GND
*.ipin IN
*.iopin VP
*.opin OUT
*.iopin GND
M1 OUT IN GND GND sg13_lv_nmos w=0.30u l=0.13u ng=1
M2 OUT IN VP VP sg13_lv_pmos w=0.30u l=0.13u ng=1
M3 VP VP VP VP sg13_lv_pmos  w=0.30u l=0.13u ng=1
M4 OUT OUT OUT VP sg13_lv_pmos  w=0.30u l=0.13u ng=1
M5 GND GND GND GND sg13_lv_nmos  w=0.30u l=0.13u ng=1
M6 OUT OUT OUT GND sg13_lv_nmos  w=0.30u l=0.13u ng=1
.ends

